### PR TITLE
[Merged by Bors] - feat: port Data.Option.Basic

### PR DESCRIPTION
**Pull request by pechersky**
- Define `getOrElse` here -- likely belongs in `Std`
- lemmas mentioning `coe` now use up-arrow, even though that refers to `some` directly
- `Option.elim` has different argument order

### CODE REVIEW

**Comment by digama0** [comment]
`#align option.get_or_else Option.getD`

**Comment by digama0** [comment]
One trick to handle the `Option.elim` reorder is to use `#align option.elim Option.elimₓ`. This will make lean treat it formally as a separate definition so it won't get too confused with type errors resulting from literally using `Option.elim` for `option.elim`, but during printing it will remove the `ₓ` which should usually be fine as long as the definition is applied with dot-notation where it's the same either way. (You should put a comment on the `#align` to explain what changed though.)

**Comment by pechersky** [comment]
Can you give some guidance on what to do about all the `simp` lemmas that are now either replicated elsewhere, or the ones that now `simp`ify on the LHS? I've commented out the `simp` tags to appease the linter.

File: Mathlib/Data/Option/Basic.lean [hunk 1]
```diff
@@ -3,28 +3,370 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
 Authors: Mario Carneiro
 -/
-import Mathlib.Init.Function
-import Mathlib.Data.Option.Defs
-import Mathlib.Logic.Basic
+import Mathlib.Logic.IsEmpty
+import Mathlib.Tactic.Basic
+import Mathlib.Logic.Relator
+import Mathlib.Tactic.SimpTrace
+import Mathlib.Mathport.Rename
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:10]:
```suggestion
import Mathlib.Logic.IsEmpty
import Mathlib.Logic.Relator
import Mathlib.Tactic.Basic
import Mathlib.Tactic.SimpTrace
import Mathlib.Mathport.Rename
```
Generally we sort imports so tactics come at the end, I think.

We really should put `Mathport.Rename`, `Tactic.SimpTrace`, `Util.WhatsNew`, `Tactic.LibrarySearch`, and possibly some others into a kitchen-sink import, and then import them as low as possible, e.g. `Logic.Basic`, so others don't have to deal with them.

File: Mathlib/Data/Option/Basic.lean [hunk 2]
```diff
@@ -3,28 +3,370 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+
+theorem pmap_map (g : γ → α) (x : Option γ) (H) :
+    pmap f (x.map g) H = pmap (fun a h => f (g a) h) x fun a h => H _ (mem_map_of_mem _ h) := by
+  cases x <;> simp only [map_none', map_some', pmap]
+
+theorem map_pmap (g : β → γ) (f : ∀ a, p a → β) (x H) :
+    Option.map g (pmap f x H) = pmap (fun a h => g (f a h)) x H :=
+  by cases x <;> simp only [map_none', map_some', pmap]
+
+-- Can't simp tag this anymore because `pbind` simplifies
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:159]:
```suggestion
-- Can't simp tag this anymore because `pmap` simplifies
```
?

Comment (semorrison) [reply Mathlib/Data/Option/Basic.lean:159]: (and below)

File: Mathlib/Data/Option/Defs.lean [hunk 3]
```diff
@@ -16,6 +16,11 @@ Other basic operations on `Option` are defined in the core library.
 
 namespace Option
 
+/-- Inhabited `get` function. Returns `a` if the input is `some a`, otherwise returns `default`. -/
+@[reducible] def iget [Inhabited α] : Option α → α
+| (some x) => x
+| none     => default
+
```
Comment (semorrison) [inline Mathlib/Data/Option/Defs.lean:23]: Would it make sense to do the complete port of Data/Option/Defs first?

File: Mathlib/Data/Option/Basic.lean [hunk 4]
```diff
@@ -3,28 +3,368 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+    rw [dif_pos h]
+    exact is_some_some
 
--- theorem join_eq_none {o : Option (Option α)} : o.join = none ↔ o = none ∨ o = some none := by
---   rcases o with _|_|_; simp
+end
 
-@[simp] theorem lift_or_get_none_left {f} {b : Option α} : lift_or_get f none b = b := by
-  cases b <;> rfl
+#align option.elim Option.elimₓ
```
Comment (javra) [inline Mathlib/Data/Option/Basic.lean:364]: The `elimₓ` should be deleted, I called it `elim'` on #504 but maybe it's better to just adapt to the new argument order of `Option.elim`

Comment (digama0) [reply Mathlib/Data/Option/Basic.lean:364]: The meaning of the `ₓ` has changed slightly in newer versions of mathport. Now it means a name character which is stripped only for printing purposes, so it is used whenever an alignment is technically incorrect but will still elaborate as intended if you just find/replace uses of `Option.elimₓ` with `Option.elim`. So this pattern will basically automate the adaptation to the new argument order. (Alternatively, you can backport change the argument order of `option.elim` and make this an actual defeq match.)

Comment (javra) [reply Mathlib/Data/Option/Basic.lean:364]: Oh wow, ok, thanks for the correction, that's neat that it automates to the new argument order!

File: Mathlib/Data/Option/Defs.lean (hunk 3 above)
Comment (pechersky) [reply Mathlib/Data/Option/Defs.lean:23]: Okay, will do!

File: Mathlib/Init/Logic.lean [hunk 5]
```diff
@@ -287,8 +287,8 @@ alias byCases ← by_cases
 alias byContradiction ← by_contradiction
 alias not_not ← not_not_iff
 
-@[deprecated not_or] theorem not_or_iff_and_not (p q) [Decidable p] [Decidable q] :
-    ¬(p ∨ q) ↔ ¬p ∧ ¬q := not_or
+@[nolint unusedArguments, deprecated not_or] theorem not_or_iff_and_not (p q)
+    [Decidable p] [Decidable q] : ¬(p ∨ q) ↔ ¬p ∧ ¬q := not_or
```
[the remark this answers is not in the document]
Comment (pechersky) [reply Mathlib/Init/Logic.lean:291]: Sorry, not sure what you mean here.

[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Init/Logic.lean:291]: It should be using the `Decidable` instances! But this change is orthogonal to the PR, and should just be removed and considered elsewhere. Porting PRs should not included extraneous changes.

File: Mathlib/Data/Option/Basic.lean [hunk 6]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+variable {α β γ δ : Type _}
+
+theorem coe_def : (fun a => ↑a : α → Option α) = some :=
+  rfl
+
+#align option.get_or_else Option.getD
+
+@[simp]
+theorem getD_coe (x y : α) : Option.getD (↑x) y = x :=
+  rfl
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:42]: Also needs an #align

File: Mathlib/Data/Option/Basic.lean [hunk 7]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+
+theorem eq_of_mem_of_mem {a : α} {o1 o2 : Option α} (h1 : a ∈ o1) (h2 : a ∈ o2) : o1 = o2 :=
+  h1.trans h2.symm
+
+theorem Mem.left_unique : Relator.LeftUnique ((· ∈ ·) : α → Option α → Prop) :=
+fun _ _ _=> mem_unique
+
+theorem some_injective (α : Type _) : Function.Injective (@some α) := fun _ _ => some_inj.mp
 
 /-- `option.map f` is injective if `f` is injective. -/
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:55]:
```suggestion
/-- `Option.map f` is injective if `f` is injective. -/
```

**Comment by pechersky** [comment]
@semorrison Sorry about the extraneous changes -- I included them because the build was failing due to the lints.

File: Mathlib/Init/Logic.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (digama0) [reply Mathlib/Init/Logic.lean]: Actually this theorem is intuitionistically valid. This theorem exists only for alignment purposes, that's why it's deprecated.

File: Mathlib/Data/Option/Basic.lean [hunk 8]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+    x.bind f = some b ↔ ∃ a, x = some a ∧ f a = some b :=
+  by cases x <;> simp
+
+theorem bind_eq_none' {o : Option α} {f : α → Option β} :
+    o.bind f = none ↔ ∀ b a, a ∈ o → b ∉ f a := by
+  simp only [eq_none_iff_forall_not_mem, mem_def, bind_eq_some, not_exists, not_and, iff_self]
+
+-- FIXME: there is no global `mjoin`
+-- theorem join_eq_join : mjoin = @join α :=
+--   funext fun x => by rw [mjoin, bind_id_eq_join]
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:82]: I guess we need to port `Init/Control/Combinators.lean` as well.

File: Mathlib/Data/Option/Basic.lean [hunk 9]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+theorem map_comm {f₁ : α → β} {f₂ : α → γ} {g₁ : β → δ} {g₂ : γ → δ} (h : g₁ ∘ f₁ = g₂ ∘ f₂)
+  (a : α) :
+    (Option.map f₁ a).map g₁ = (Option.map f₂ a).map g₂ := by rw [map_map, h, ← map_map]
+
+section Pmap
+
+variable {p : α → Prop} (f : ∀ a : α, p a → β) (x : Option α)
+
+-- Can't simp tag this anymore because `pbind` simplifies
+-- @[simp]
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:117]: I suggest all comments like this get a common phrase, probably "Porting note:" at the beginning.

However I think we're just removing all the simp lemmas where the Lean 4 simp already simplifies the left hand side because it looks inside definitions by pattern matching itself.

File: Mathlib/Data/Option/Basic.lean [hunk 10]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+theorem ne_none_iff_is_some {o : Option α} : o ≠ none ↔ o.isSome := by cases o <;> simp
+
+theorem iget_mem [Inhabited α] : ∀ {o : Option α}, isSome o → o.iget ∈ o
+  | some _, _ => rfl
+
+theorem iget_of_mem [Inhabited α] {a : α} : ∀ {o : Option α}, a ∈ o → o.iget = a
+  | _, rfl => rfl
+
+theorem getD_default_eq_iget [Inhabited α] (o : Option α) :
+    o.getD default = o.iget := by cases o <;> rfl
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:279]: Needs an #align. Perhaps search for `getD` and double check.

File: Mathlib/Data/Option/Basic.lean [hunk 11]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+
+@[simp]
+theorem guard_eq_some' {p : Prop} [Decidable p] (u) : _root_.guard p = some u ↔ p := by
+  cases u
+  by_cases p <;> simp [_root_.guard, h] <;> first |rfl|contradiction
+
+theorem lift_or_get_choice {f : α → α → α} (h : ∀ a b, f a b = a ∨ f a b = b) :
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:286]:
```suggestion
theorem liftOrGet_choice {f : α → α → α} (h : ∀ a b, f a b = a ∨ f a b = b) :
```
with an #align. Also below.

File: Mathlib/Data/Option/Basic.lean [hunk 12]
```diff
@@ -3,28 +3,366 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+
+end Pmap
+
+@[simp]
+theorem seq_some {α β} {a : α} {f : α → β} : some f <*> some a = some (f a) :=
+  rfl
+
+@[simp]
+theorem some_orelse' (a : α) (x : Option α) : (some a).orElse (fun _ => x) = some a :=
+  rfl
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:226]: I guess we want lots of renames here. All the `orelse` fragments should become `orElse`, similarly for `isSome` and `isNone`, and then all the necessary #aligns.

File: Mathlib/Data/Option/Basic.lean (hunk 9 above)
Comment (pechersky) [reply Mathlib/Data/Option/Basic.lean]: Does your comment mean:
- Add `Porting note:`, leave `-- @[simp]`
- Add `Porting note:`, remove `-- @[simp]`
- Have neither

I've done option 1 so far.

File: Mathlib/Data/Option/Basic.lean (hunk 8 above)
Comment (pechersky) [reply Mathlib/Data/Option/Basic.lean:83]: #530

File: Mathlib/Data/Option/Basic.lean (hunk 9 above)
Comment (semorrison) [reply Mathlib/Data/Option/Basic.lean]: Sorry, it was meant to be two separate suggestions:
1. Definitely add "Porting note" to any comment that is about porting, and will stay in the PR post-merge.
2. For this class of simp lemmas, I *think* (Mario may correct!) that it is okay to just drop these @[simp] annotations without leaving a comment.

File: Mathlib/Data/Option/Basic.lean [hunk 13]
```diff
@@ -3,28 +3,349 @@ Copyright (c) 2017 Mario Carneiro. All rights reserved.
...
+
+@[simp]
+theorem map_eq_id {f : α → α} : Option.map f = id ↔ f = id :=
+  map_injective'.eq_iff' map_id
+
+theorem map_comm {f₁ : α → β} {f₂ : α → γ} {g₁ : β → δ} {g₂ : γ → δ} (h : g₁ ∘ f₁ = g₂ ∘ f₂)
+  (a : α) :
+    (Option.map f₁ a).map g₁ = (Option.map f₂ a).map g₂ := by rw [map_map, h, ← map_map]
+
+section Pmap
```
Comment (semorrison) [inline Mathlib/Data/Option/Basic.lean:114]:
```suggestion
section pmap
```

**Comment by semorrison** [comment]
bors merge
